US05514680
Preparation of 6-Chloro-5-nitro-7-trifluoromethyl-1,4-dihydro-2,3-quinoxalinedione
To a solution of 6-chloro-7-trifluoromethyl-1,4-dihydro-2,3-quinoxalinedione (31 mg, 0.12 mmol) in concentrated H2SO4 (0.3 mL) at 0° C. was added KNO3 (14 mg, 0.141 mmol, Baker). The mixture was stirred at 0° C. for 0.5 h and then at room temperature for 20 h and it was poured into ice water (2 g). The precipitate was collected by filtration, giving 31 mg of crude title compound. The sample was dissolved in 1N KOH (1 mL) and filtered. The filtrate was acidified to pH=2 with 4N HCl to give a yellow precipitate which was collected by filtration and then dried in air at 50° C. for 4 h to give the title compound (29 mg, 80%) as a yellow powder. Crystallization from DMSO/H2O gave pure compound (18 mg) as yellow microcrystals. mp: 342°-5° C., IR (KBr, cm-1): 3394, 3301, 3248, 3209, 1761, 1701, 1628, 1542. 1H NMR (DMSO-d6): δ7.618 (s, 1H), 12.351 (s, 1H), 12.552 (s, 1H). HRMS: calcd for C9H3ClF3N3O4 (M+) m/z: 308.9763, found: 308.9759.

reactant | 6-chloro-7-trifluoromethyl-1,4-dihydro-2,3-quinoxalinedione | 0.12 mmol, 31 mg | ClC=1C=C2NC(C(NC2=CC1C(F)(F)F)=O)=O | C9H4ClF3N2O2
reactant | KNO3 | 0.141 mmol, 14 mg | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 0.3 mL | OS(=O)(=O)O | H2O4S
solvent | KOH | 1N, 1 mL | [OH-].[K+]
product | 6-Chloro-5-nitro-7-trifluoromethyl-1,4-dihydro-2,3-quinoxalinedione | 29 mg, 80% | ClC=1C(=C2NC(C(NC2=CC1C(F)(F)F)=O)=O)[N+](=O)[O-] | C9H3ClF3N3O4
